US04910190
a. Ethyl 4-[2-Oxo-2-(phenylmethoxy)ethoxy]benzoate
A mixture of ethyl p-hydroxybenzoate (4.98 g), benzyl bromoacetate (4.75 ml) and K2CO3 (4.14 g) was stirred for 15 hr in 30 ml of DMF. The reaction mixture was diluted with water (200 ml) and extracted with a 1:1 ether:hexane mixture. The combined organic extracts were washed (water, brine), dried (Na2SO4), filtered, and evaporated leaving 9.3 g, (99%) of the title compound as a heavy oil; TLC, Rf =0.71, Et2O: hexane (1:1).

reactant | ethyl p-hydroxybenzoate | 4.98 g | OC1=CC=C(C(=O)OCC)C=C1 | C9H10O3
reactant | benzyl bromoacetate | 4.75 ml | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
reactant | K2CO3 | 4.14 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
solvent | water | 200 ml | O | H2O
product | Ethyl 4-[2-Oxo-2-(phenylmethoxy)ethoxy]benzoate | 99% | O=C(COC1=CC=C(C(=O)OCC)C=C1)OCC1=CC=CC=C1 | C18H18O5
